US08383821B2
Methyl 3-(hydroxymethyl)-5-nitrobenzoate.
3-(Methoxycarbonyl)-5-nitrobenzoic acid (20.0 g, 88.9 mmol) was combined with tetrahydrofuran (150 mL) and cooled to 0° C. To this solution was added a 1 M borane tetrahydrofuran complex (178 mL, 178 mmol) cautiously over 15 min and the reaction mixture allowed to warm to room temperature overnight. The mixture was cooled to 0° C., treated with excess methanol and concentrated in vacuo to afford to afford a precipitate which was dissolved in ethyl acetate, washed with concentrated sodium bicarbonate (2×), then brine (2×), dried over sodium sulfate, and concentrated to afford 18.2 g (97%) which was used without further purification. 1H-NMR (CDCl3, 300 MHz) δ 8.70 (s, 1H), 8.39 (s, 1H), 8.30 (s, 1H), 4.84 (s, 2H), 3.95 (s, 3H). Mass spec.: 212.06 (MH)+.

reactant | 3-(Methoxycarbonyl)-5-nitrobenzoic acid | 88.9 mmol, 20.0 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C9H7NO6
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(hydroxymethyl)-5-nitrobenzoate | OCC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C9H9NO5
